US07247625B2
6-[(4-bromophenyl)amino]-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 4-bromophenyl boronic acid according to the coupling procedure described in example 1. MS (ESI) m/z 361/363 ([M+H]+); MS (ESI) m/z 359/361 ([M−H]−); Anal. calcd for C17H17BrN2O2: C, 56.52; H, 4.74; N, 7.75. Found: C, 56.98; H, 4.34; N, 7.30.

reactant | 6-amino-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(C)C)C1 | C11H14N2O2
reactant | 4-bromophenyl boronic acid | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
product | 6-[(4-bromophenyl)amino]-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | BrC1=CC=C(C=C1)NC=1C=CC2=C(C(OC(N2C)=O)(C)C)C1 | C17H17BrN2O2
